datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])=[C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[H:12].[C:24](#[C:25][C:26]([C:27]([H:30])([H:31])[H:32])[C:28]([H:33])([H:34])[H:35])[H:29]>>[C:0](#[C:1][C:2]([C:3]([H:13])([H:14])[H:15])([C:4]([C:5]([H:16])([H:17])[H:18])[c:6]1[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]([H:22])[c:11]1[H:23])[C:26]([C:25]#[C:24][H:29])([C:27]([H:30])([H:31])[H:32])[C:28]([H:33])([H:34])[H:35])[H:12],37.5305
[C:0]([C:1](=[O:2])[H:5])([H:3])[H:4].[O:6]>>[C:0](=[C:1]=[O:2])([H:3])[H:4].[H:5][O:6],0.0
[C:0](=[C:1]([C:2](=[C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])[H:9])[H:8])([H:6])[H:7].[C:14](=[C:15][C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([C:4](=[C:5]([H:12])[H:13])[H:11])[H:10])([H:9])[C:15](=[C:14]([H:17])[H:18])[C:16]([H:19])([H:20])[H:21])[H:8])([H:6])[H:7],-0.33472
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[C:9]([O:10][O:11])([H:12])([H:13])[H:14]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][O:11][O:10][C:9]([H:12])([H:13])[H:14],44.166304
[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:14])([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])([H:11])[C:3]([H:12])([H:13])[C:4]([H:15])[C:5]([H:16])([H:17])[C:6]1([H:18])[H:19])([H:7])([H:8])[H:14],94.9768
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])[H:10])([C:4](=[C:5]([H:12])[H:13])[H:11])[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18])[H:8])([H:6])[H:7],60.5425
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15][H:16]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[H:10][O:15][H:16],-0.14644
[C:0](#[C:1][C:2]([H:4])[H:5])[H:3].[S:6]([H:7])[H:8]>>[C:0](#[C:1][C:2]([H:4])([H:5])[S:6][H:8])[H:3].[H:7],130.959
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([H:14])([H:15])[H:16]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])([H:8])[C:13]([H:14])([H:15])[H:16])[H:7],13.1796
[C:0](=[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])[c:4]1[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]([H:17])[c:9]1[H:18])[H:10]>>[C:0]1([H:10])=[C:1]([C:2](=[C:3]([H:12])[H:13])[H:11])[C:4]12[C:5]([H:14])[C:6]([H:15])=[C:7]([H:16])[C:8]([H:17])=[C:9]2[H:18],101.39924
[C:0](=[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[H:8])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])[H:11])[H:8])[H:7])[H:9])([H:5])[H:6],103.605
[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[H:8].[C:18]([C:19]([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])([H:26])([H:27])[H:28]>>[C:0](#[C:1][C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:12])([H:13])[H:14])[C:6](=[C:7]([H:16])[H:17])[H:15])[C:19]([C:18]([H:26])([H:27])[H:28])([c:20]1[c:21]([H:30])[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]1[H:34])[H:29])[H:8],32.0076
[N:0]([N:1]([H:4])[H:5])([H:2])[H:3].[O:6][N+:7](=[O:8])[O-:9]>>[H:2][O:6][N+:7](=[O:8])[O-:9].[N:0]([N:1]([H:4])[H:5])[H:3],-12.330248
[C:0]([C:1]([C:2]([O:3][O:4][H:14])([H:12])[H:13])[C:5]([C:6]([H:16])([H:17])[H:18])([O:7][O:8][H:19])[H:15])([H:9])([H:10])[H:11]>>[C:0]([C:1]1([C:2]([O:3][O:4][H:14])([H:12])[H:13])[C:5]([C:6]([H:16])([H:17])[H:18])([H:15])[O:7]1)([H:9])([H:10])[H:11].[O:8][H:19],37.2376
[I:0].[I:1]>>[I:0][I:1],-4.78
[C:0](#[C:1][C:2]#[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[H:6].[C:10](#[C:11][C:12]([C:13]([H:16])([H:17])[H:18])[H:15])[H:14]>>[C:0](#[C:1][C:2](=[C:3][C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]#[C:10][H:14])([C:13]([H:16])([H:17])[H:18])[H:15])[H:6],36.6937
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]#[C:5][H:11])[H:7])[H:6].[C:12]([C:13]=[S:14])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])[C:4]#[C:5][H:11])[H:6].[H:7][C:13]([C:12]([H:15])([H:16])[H:17])=[S:14],21.3384
[C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])([H:9])[H:10])[H:8]>>[H:9][C:16]([c:17]1[c:18]([H:25])[c:19]([H:26])[c:20]([H:27])[c:21]([H:28])[c:22]1[H:29])([H:23])[H:24].[S:0]([C:1]([c:2]1[c:3]([H:11])[c:4]([H:12])[c:5]([H:13])[c:6]([H:14])[c:7]1[H:15])[H:10])[H:8],32.2168
